US06573273B1
9H-9-Fluorenylmethyl N-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]carbamate
To a solution of 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine (9.3 mg, 36 μmol) in 10 mL of dichloromethane at ambient temperature was added 9-fluorenylmethyl chloroformate (8 mg, 30 μmol) as a solid. The mixture was vortexed at room temperature for about 1 min., becoming slightly cloudy. Aminomethylpolystyrene (ca. 90 mg, 0.64 meq/g, 100-200 mesh, Bachem) was added to quench excess chloroformate, and after a few minutes the mixture was filtered through a short plug of silica gel, eluting with 10:1 dichloromethane-methanol to isolate the product as a solid. 1H NMR (500 MHz, DMSO-d6) δ 8.27 (s, 1H), 8.08 (d, J=8.1 Hz, 1H), 7.87 (d, J=7.6 Hz, 2H), 7.65 (m, 3H), 7.50 (t, J=7.6 Hz, 1H), 7.40 (t, J=7.3 Hz, 2H), 7.3 (m, 4H), 7.15 (bs, 2H), 4.62 (t, J=7 Hz, 2H), 4.27 (d, J=7 Hz, 2H), 4.17 (t, J=7 Hz, 1H), 3.03 (q, J=7 Hz, 2H), 1.84 (quintet, J=7 Hz, 2H), 1.45 (quintet, J=7 Hz, 2H). MS (APCI) m/e 478.28 (M+H).

reactant | 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine | 36 μmol, 9.3 mg | NCCCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C14H17N5
reactant | 9-fluorenylmethyl chloroformate | 30 μmol, 8 mg | ClC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C15H11ClO2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 9H-9-Fluorenylmethyl N-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]carbamate | NC1=NC=2C=CC=CC2C2=C1N=CN2CCCCNC(OCC2C1=CC=CC=C1C=1C=CC=CC21)=O | C29H27N5O2
